US05026859
PREPARATION OF 5-(1,3-DIOXOLAN-2-YL)-2-(4-ISOPROPYL-4-METHYL-5-OXO-2-IMIDAZOLIN-2-YL)NICOTINIC ACID
2-[(1-Carbamoyl-1,2-dimethylpropyl)carbamoyl]-5-(1,3-dioxolan-2-yl)nicotinic acid (4.19 g, 0.019 mol) and 15% potassium hydroxide is heated at 80° C. for 1 hour. The reaction mixture is acidified to pH 3 with concentrated hydrochloric acid and methylene chloride is added. The methylene chloride layer is separated, dried over anhydrous magnesium sulfate and concentrated in vacuo to give an oil. The oil is chromatographed using silica gel and methylene chloride with increasing percentage of ether as eluent to give the title compound as a pale yellow solid (0.19 g, 5%), mp 156° C., identified by IR and NMR spectral analyses.

reactant | 2-[(1-Carbamoyl-1,2-dimethylpropyl)carbamoyl]-5-(1,3-dioxolan-2-yl)nicotinic acid | 0.019 mol, 4.19 g | C(N)(=O)C(C(C)C)(C)NC(=O)C1=C(C(=O)O)C=C(C=N1)C1OCCO1 | C16H21N3O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(1,3-DIOXOLAN-2-YL)-2-(4-ISOPROPYL-4-METHYL-5-OXO-2-IMIDAZOLIN-2-YL)NICOTINIC ACID | 0.19 g, 5% | O1C(OCC1)C=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C16H19N3O5
